US07812022B2
To a solution of 4-[2-(3-bromophenyl)-6-(trifluoromethyl)pyrazolo[1,5-a]pyridin-3-yl]-N-(3-fluorophenyl)-2-pyrimidinamine (125 mg, 0.24 mmol) in dioxane (10 mL) was added Pd2 dba3 (7 mg, 0.007 mmol), Cs2CO3 (94 mg, 0.34 mmol), Xantphos (7 mg, 0.011 mmol), and 2,6-difluorobenzamide (44 mg, 0.28 mmol). The reaction mixture was then subjected to microwave irradiation (Personal Chemistry Optimizer, 170° C., 15 min). The reaction was then cooled and the mixture partitioned in EtOAc (100 mL) and water (25 mL). The organic layer was separated, dried (over MgSO4) and concentrated. The crude material was purified by silica gel column chromatography (20-50% EA/Hex) to provide the title compound (43 mg, 30%) as an beige solid. 1H NMR (400 MHz, d6-DMSO): δ 10.95 (s, 1H), 9.88 (s, 1H), 9.54 (s, 1H), 8.54 (d, J=9.3 Hz, 1H), 8.38 (d, J=5.3 Hz, 1H), 8.07 (s, 1H), 7.80 (d, J=8.8 Hz, 1H), 7.71 (m, 2H), 7.59 (m, 1H), 7.49 (t, J=8.0 Hz, 1H), 7.43 (d, J=9.3 Hz, 1H), 7.35 (d, J=7.7 Hz, 1H), 7.25 (m, 3H), 6.71 (dt, J=2.3, 8.4 Hz, 1H), 6.65 (d, J=5.1 Hz, 1H) ppm. ESIMS (M+H)+=605.

reactant | 4-[2-(3-bromophenyl)-6-(trifluoromethyl)pyrazolo[1,5-a]pyridin-3-yl]-N-(3-fluorophenyl)-2-pyrimidinamine | 0.24 mmol, 125 mg | BrC=1C=C(C=CC1)C1=NN2C(C=CC(=C2)C(F)(F)F)=C1C1=NC(=NC=C1)NC1=CC(=CC=C1)F | C24H14BrF4N5
reactant | Cs2CO3 | 0.34 mmol, 94 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | Xantphos | 0.011 mmol, 7 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | 2,6-difluorobenzamide | 0.28 mmol, 44 mg | FC1=C(C(=O)N)C(=CC=C1)F | C7H5F2NO
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2 dba3 | 0.007 mmol, 7 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2,6-Difluoro-N-{3-[3-{2-[(3-fluorophenyl)amino]-4-pyrimidinyl}-6-(trifluoromethyl)pyrazolo[1,5-a]pyridin-2-yl]phenyl}benzamide | 43 mg, 30% | FC1=C(C(=O)NC2=CC(=CC=C2)C2=NN3C(C=CC(=C3)C(F)(F)F)=C2C2=NC(=NC=C2)NC2=CC(=CC=C2)F)C(=CC=C1)F | C31H18F6N6O
